US05482913
Benzyl p-hydroxybenzoate in an amount of 0.9 g (4 mM) was dissolved in ethyl acetate (10 ml), and then mixed with 2.7 ml (12 mM) of di-tert-butyldicarbonate and pyridine (1 ml). The solution was reacted at 50° C. for 2.5 hours in a nitrogen atmosphere. The reaction solution was treated using the same procedure as in Synthesis Example 1 to obtain benzyl p-(tert-butoxycarbonyloxy)benzoate. (Yield: 39.6%)

reactant | Benzyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | di-tert-butyldicarbonate | 12 mM, 2.7 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | benzyl p-(tert-butoxycarbonyloxy)benzoate | Yield: 39.6% | C(C)(C)(C)OC(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C19H20O5
